US08877782B2
[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-piperidin-1-yl-methanone
As described for example 15, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using piperidine instead of 3-methoxypropylamine, to the title compound (91 mg, 75%) which was obtained as a yellow gum. MS: m/e=378.5 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | piperidine | N1CCCCC1 | C5H11N
product | [6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-piperidin-1-yl-methanone | 91 mg, 75% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)N1CCCCC1 | C22H23N3O3
